US09416080B2
PhCH2OCH2CH2CH2CH2CH3
Into a pressure vessel 1-pentanol (109 μL, 1 mmol, 1 eq) was added and diluted with toluene (1.063 mL, 10 mmol, 10 eq). To this stirring solution was added 1 mol % of a stock solution of {[Cl2NN]Cu}2(benzene) from the catalyst stock solution described in Example 4 (200 μL=0.01 mmol). After adding of tert-butyl peroxide (220 μL, 1.2 mmol), the pressure vessel was sealed and heated to 90° C. for 24 hr. The catalyst was separated by exposing the mixture to air and filtering through Celite®. After removing toluene under vacuum, the residue was analyzed by 1H NMR and GC/MS to determine the yield and consumption of starting materials. 1H NMR Yield: 20%.

reactant | 1-pentanol | 1 mmol, 109 μL, 1 eq | C(CCCC)O | C5H12O
reactant | toluene | 10 mmol, 1.063 mL, 10 eq | C1(=CC=CC=C1)C | C7H8
reactant | tert-butyl peroxide | 1.2 mmol, 220 μL | C(C)(C)(C)OOC(C)(C)C | C8H18O2
product | PhCH2OCH2CH2CH2CH2CH3 | Yield: 20% | C1(=CC=CC=C1)COCCCCC | C12H18O
